US08026234B2
Compound 122: 4-(9-Cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-fluoro-5-methoxy-N-(1-methylpiperidin-4-yl)benzamide
The title compound was synthesized from 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-fluoro-5-methoxybenzoic acid and 1-methylpiperidin-4-amine as described in the General procedure for amide bond synthesis. The final compound was purified by reverse phase HPLC and basified to give the free base. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.33 (m, 4H) 1.58 (d, J=14.4 Hz, 6H) 1.75 (m, 2H) 1.93 (m, 2H) 1.99 (s, 1H) 2.16 (s, 3H) 2.78 (d, J=10.6 Hz, 2H) 3.29 (s, 3H) 3.83 (s, 2H) 3.89-4.01 (t, J=12 Hz, 2H) 4.32 (m, 1H) 7.24-7.48 (m, 2H) 8.10 (s, 1H) 8.26 (d, J=7.6 Hz, 1H) 8.53 (s, 1H). [M+H] calc'd for C27H34F3N7O3, 562. found 562.

reactant | 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-fluoro-5-methoxybenzoic acid | C1(CCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)O)C=C2OC)F | C21H22F3N5O4
reactant | 1-methylpiperidin-4-amine | CN1CCC(CC1)N | C6H14N2
product | 4-(9-Cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-fluoro-5-methoxy-N-(1-methylpiperidin-4-yl)benzamide | C1(CCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)NC1CCN(CC1)C)C=C2OC)F | C27H34F3N7O3
